US08557805B2
5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carbothioamide
To a solution of 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide (1.35 g) in tetrahydrofuran (20 mL) was added a Lawesson's reagent (1.4 g), and the mixture was stirred with heating under reflux for 1 hr. The reaction mixture was cooled, and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) to give the title compound (1.4 g, yield 100%) as a yellow amorphous solid.

reactant | 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide | 1.35 g | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)N | C20H21N3O6S
reactant | Lawesson's reagent | 1.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carbothioamide | 1.4 g, yield 100% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(N)=S | C20H21N3O5S2
